US08455475B2
8-(2,6-Dimethylpyridin-4-yl)-2,8-diazaspiro[4.5]decane hydrochloride (AMN-36)
Synthesis of this amine was carried out in analogy to Amine AMN-33 employing tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (1 eq.) and 4-chloro-2-methylpyridine (3 eq.) as starting materials. In step 1 the number of equivalents of N-ethyl-diisopropylamine was adjusted to 3. Step 1—yield: 50%; Step 2—yield: 68%

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 1 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 4-chloro-2-methylpyridine | 3 eq. | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
product | 8-(2,6-Dimethylpyridin-4-yl)-2,8-diazaspiro[4.5]decane hydrochloride | yield: 50% | Cl.CC1=NC(=CC(=C1)N1CCC2(CCNC2)CC1)C | InChI=1S/C15H23N3.ClH/c1-12-9-14(10-13(2)17-12)18-7-4-15(5-8-18)3-6-16-11-15;/h9-10,16H,3-8,11H2,1-2H3;1H
